US06307047B1
A mixture of 2-benzyl-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (187 mg, 0.5 mmol), prepared in Example 78, p-chlorophenol (129 mg, 0.5 mmol) and NaH (60% oil suspension) (40 mg, 1 mmol) in THF (25 mL) was refluxed at 50° C. for 3 hours and then concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The acetate layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed (silica gel, 1:1 hexanes-ethyl acetate) to provide 2-benzyl-4-(4-chlorophenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 200 mg, 82%).

reactant | 2-benzyl-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 0.5 mmol, 187 mg | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C18H15ClN2O3S
reactant | p-chlorophenol | 0.5 mmol, 129 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-benzyl-4-(4-chlorophenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 200 mg, 82% | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O4S
